US07037905B2
2-(5-Chlorothiophen-2-yl)-5,5-dimethyl-[1,3,2]dioxaborinane
The title compound (54%, crystals) was prepared from 5-chlorothiophen-2-boronic acid and neopentylglycol.

reactant | 5-chlorothiophen-2-boronic acid | ClC1=CC=C(S1)B(O)O | C4H4BClO2S
reactant | neopentylglycol | CC(C)(CO)CO | C5H12O2
product | 2-(5-Chlorothiophen-2-yl)-5,5-dimethyl-[1,3,2]dioxaborinane | 54% | ClC1=CC=C(S1)B1OCC(CO1)(C)C | C9H12BClO2S
